US08980911B2
[2,6-Dichloro-4-(hydroxymethyl)phenyl](1H-pyrrolo[3,2-c]pyridin-1-yl)methanone (Compound No. 90) was synthesized from N-(1H-pyrrolo[3,2-c]pyridine and 2,6-dichloro-4-(hydroxymethyl)benzoic acid.

reactant | 1H-pyrrolo[3,2-c]pyridine | N1C=CC=2C=NC=CC21 | C7H6N2
reactant | 2,6-dichloro-4-(hydroxymethyl)benzoic acid | ClC1=C(C(=O)O)C(=CC(=C1)CO)Cl | C8H6Cl2O3
product | [2,6-Dichloro-4-(hydroxymethyl)phenyl](1H-pyrrolo[3,2-c]pyridin-1-yl)methanone | ClC1=C(C(=CC(=C1)CO)Cl)C(=O)N1C=CC=2C=NC=CC21 | C15H10Cl2N2O2
